US06320050B1
A solution of diisopropylamine (1.5 mL, 10.67 mmol) in dry tetrahydrofuran (24 mL) and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5M solution of n-butyllithium in hexanes (4.3 mL, 10.67 mmol). The resulting reaction mixture was stirred at −78° C. for 45 min and then treated dropwise with a solution of (3-fluoro-4-trifluoromethyl-phenyl)-acetic acid methyl ester (2.40 g, 10.16 mmol) in a small amount of tetrahydrofuran. The reaction mixture was allowed to stir at −78° C. for 1 h, at which time, a solution of iodomethylcyclopentane (2.24 g, 10.67 mmol) in a small amount of dry tetrahydrofuran was added dropwise. The reaction mixture was allowed to warm to 25° C. where it was stirred for 15 h. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (10 mL) and then partitioned between water (75 mL) and ethyl acetate (75 mL). The layers were shaken and separated. The aqueous layer was further extracted with ethyl acetate (1×75 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 5/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid methyl ester (2.69 g, 83%) as a colorless oil: EI-HRMS m/e calcd for C16H18F4O2 (M+) 318.1243, found 318.1250.

reactant | diisopropylamine | 10.67 mmol, 1.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (3-fluoro-4-trifluoromethyl-phenyl)-acetic acid methyl ester | 10.16 mmol, 2.40 g | COC(CC1=CC(=C(C=C1)C(F)(F)F)F)=O | C10H8F4O2
reactant | iodomethylcyclopentane | 10.67 mmol, 2.24 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 8 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid methyl ester | 2.69 g, 83% | COC(C(CC1CCCC1)C1=CC(=C(C=C1)C(F)(F)F)F)=O | C16H18F4O2
